US05646173
A solution of 4.5 g of (RS)-2-(2-oxoethyl)-6-methoxy-1-indanone and 2.3 g of N-acetylethylenediamine in 100 ml of toluene was boiled under reflux for 10 minutes. The reaction mixture was evaporated in a vacuum, taken up in dichloromethane, dried with magnesium sulfate and again evaporated. After purification on silica gel (ethyl acetate), 0.9 g (15%) of N-[2-(7-methoxy-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-ethyl]-acetamide was obtained as a yellowish solid.

reactant | (RS)-2-(2-oxoethyl)-6-methoxy-1-indanone | 4.5 g | O=CCC1C(C2=CC(=CC=C2C1)OC)=O | C12H12O3
reactant | N-acetylethylenediamine | 2.3 g | C(C)(=O)NCCN | C4H10N2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-[2-(7-methoxy-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-ethyl]-acetamide | 0.9 g, 15% | COC1=CC=C2CC3=C(N(C=C3)CCNC(C)=O)C2=C1 | C16H18N2O2
